US05863952
(±)cis-1-(3,4-Dichlorobenzyl)-2-methylaminoindane
To a solution of (±) cis-1-(3,4-dichlorobenzyl)-2-(N-methyl-N-tert-butoxycarbonyl-amino)indane (1.016 g, 2.5 mmol) in dichloromethane (20 ml) at 0° C. was added trifluoroacetic acid (4 ml) dropwise. The solution was then stirred at room temperature for 2 h, poured into saturated aqueous NaHCO3 (150 ml) and extracted with dichloromethane (3×30 ml). The combined organic phases were dried over sodium sulfate, and concentrated in vacuo. The residue was subjected to column chromatography on silica eluting with 5% ethanol in chloroform to afford the title compound as a colourless oil (585 mg) which was converted to the HCl salt and crystallised to afford a white solid. m.p.>245° C. dec. (from ethanol-diethyl ether).

reactant | (±) cis-1-(3,4-dichlorobenzyl)-2-(N-methyl-N-tert-butoxycarbonyl-amino)indane | 2.5 mmol, 1.016 g | ClC=1C=C(C[C@H]2[C@H](CC3=CC=CC=C23)N(C(=O)OC(C)(C)C)C)C=CC1Cl | C22H25Cl2NO2
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | 150 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (±)cis-1-(3,4-Dichlorobenzyl)-2-methylaminoindane | 585 mg | ClC=1C=C(C[C@H]2[C@H](CC3=CC=CC=C23)NC)C=CC1Cl | C17H17Cl2N
